US08466181B2
e) 4-(2-Fluorophenyl)-1-methyl-5-(1-(4-(trifluoromethyl)phenyl)-1H-imidazol-4-yl)-1H-1,2,3-triazole
A mixture of 4-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-1,2,3-triazole (70 mg, 0.29 mmol), 4-fluorobenzotrifluoride (73 μL, 0.58 mmol) and potassium carbonate (80 mg, 0.58 mmol) in DMF (2.0 mL) was stirred under Ar in a sealed flask and heated at 120° C. for 16 h. After cooling to room temperature the mixture was poured into water and extracted with ethyl acetate and the combined extracts washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 0 to 5% methanol in dichloromethane) afforded the title compound (87 mg, 78%) as an off white solid. MS: m/e=388.2 [M+H]+.

reactant | 4-(2-fluorophenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-1,2,3-triazole | 0.29 mmol, 70 mg | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CNC1)C | C12H10FN5
reactant | 4-fluorobenzotrifluoride | 0.58 mmol, 73 μL | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | potassium carbonate | 0.58 mmol, 80 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-(2-Fluorophenyl)-1-methyl-5-(1-(4-(trifluoromethyl)phenyl)-1H-imidazol-4-yl)-1H-1,2,3-triazole | 87 mg, 78% | FC1=C(C=CC=C1)C=1N=NN(C1C=1N=CN(C1)C1=CC=C(C=C1)C(F)(F)F)C | C19H13F4N5
